US07012074B2
8-[2-Amino-4-(4-cyanophenoxy)butyl]-N-butyl-3,8-diazabicyclo[3.2.1]octane-3-carboxamide
tert-Butyl 3-(4-cyanophenoxy)-1-(3,8-diazabicyclo[3.2.1]oct-8-ylmethyl)propylcarbamate (100.1 mg, 0.25 mmol; see Preparation M) was dissolved in MeCN (2.5 mL) and triethylamine (37.9 mg, 0.38 mmol). Butylisocyanate (29.7 mg, 0.3 mmol) was added and the reaction mixture was stirred at r.t for 4 days. The solvent was evaporated and the resulting residue dissolved in ethyl acetate (0.5 mL). Ethyl acetate saturated with HCl (2 mL) was added and the mixture was stirred for 6 h. The solvent was evaporated and the residue dissolved in MeCN (2 mL). The solution was added to ion-exchange solid phase extraction plug. The plug was then eluted with DCM/MeCN (4×2 mL of 4:1) (fraction 1) followed by DCM:MeOH:Et3N (4×2 mL of 8:1:1)(fraction 2). Evaporation of fraction 2 gave the title compound in quantitative yield.

reactant | tert-Butyl 3-(4-cyanophenoxy)-1-(3,8-diazabicyclo[3.2.1]oct-8-ylmethyl)propylcarbamate | 0.25 mmol, 100.1 mg | C(#N)C1=CC=C(OCCC(CN2C3CNCC2CC3)NC(OC(C)(C)C)=O)C=C1 | C22H32N4O3
reactant | triethylamine | 0.38 mmol, 37.9 mg | C(C)N(CC)CC | C6H15N
reactant | Butylisocyanate | 0.3 mmol, 29.7 mg | C(CCC)N=C=O | C5H9NO
solvent | MeCN | 2.5 mL | CC#N | C2H3N
product | 8-[2-Amino-4-(4-cyanophenoxy)butyl]-N-butyl-3,8-diazabicyclo[3.2.1]octane-3-carboxamide | quantitative yield | NC(CN1C2CN(CC1CC2)C(=O)NCCCC)CCOC2=CC=C(C=C2)C#N | C22H33N5O2
